US08685970B2
Preparation of N-(2-(3-(piperazin-1-ylmethyl)phenyl)quinolin-8-yl)thiazole-4-carboxamide Hydrochloride
Tert-butyl-4-(3-(8-(thiazole-4-carboxamido)quinolin-2-yl)benzyl)piperazine-1-carboxylate from above was treated with a mixture of 25% TFA in CH2Cl2 for 18 hours, concentrated to dryness. The residue was suspended in CH2Cl2, washed with aqueous NaHCO3 (sat.), dried (Na2SO4) and concentrated. The resulting residue was diluted in a minimal amount of dioxane, treated with a slight excess of HCl in methanol, followed by diethyl ether. The resulting HCl salt of N-(2-(3-(piperazin-1-ylmethyl)phenyl)quinolin-8-yl)thiazole-4-carboxamide was collected by filtration. (24 mg 32% yield over two steps). MS (ESI) calcd for C24H23N5OS (m/z): 429.16. found: 430 [M+1].

reactant | Tert-butyl-4-(3-(8-(thiazole-4-carboxamido)quinolin-2-yl)benzyl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C=1N=CSC1 | C29H31N5O3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-(3-(piperazin-1-ylmethyl)phenyl)quinolin-8-yl)thiazole-4-carboxamide Hydrochloride | 32% yield | Cl.N1(CCNCC1)CC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C=1N=CSC1 | InChI=1S/C24H23N5OS.ClH/c30-24(22-15-31-16-26-22)28-21-6-2-4-18-7-8-20(27-23(18)21)19-5-1-3-17(13-19)14-29-11-9-25-10-12-29;/h1-8,13,15-16,25H,9-12,14H2,(H,28,30);1H
